US07576099B2
Preparation of 4-(cyclopropylethynyl)benzoic acid
The above compound was prepared using the same procedure as 4-(cyclopropylethynyl)-2-methylbenzoic acid, except methyl 4-iodobenzoate was used as the starting material.

reactant | 4-(cyclopropylethynyl)-2-methylbenzoic acid | C1(CC1)C#CC1=CC(=C(C(=O)O)C=C1)C | C13H12O2
reactant | methyl 4-iodobenzoate | IC1=CC=C(C(=O)OC)C=C1 | C8H7IO2
product | 4-(cyclopropylethynyl)benzoic acid | C1(CC1)C#CC1=CC=C(C(=O)O)C=C1 | C12H10O2
